US07915281B2
The method described in Part E of Example 12 was used to treat 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine (1.08 g, 2.79 mmol) with mCPBA (1.1 g of 75% pure material followed by 0.35 g) with the modification that the trituration of the crude product was carried out with diethyl ether. 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine was obtained as a white solid.

reactant | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine | 2.79 mmol, 1.08 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C=NC=3C=CC=NC3C21)CCC | C22H18FN5O
reactant | mCPBA | 1.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridine | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C=[N+](C=3C=CC=NC3C21)[O-])CCC | C22H18FN5O2
